US07705023B2
(b) 5-Bromo-2-cyclopentoxypyridine
A mixture of 5-bromo-1H-pyridin-2-one (4.0 g, 23 mmol), Ag2CO3 (3.77 g, 1.37 mmol), cyclopentyl bromide (7.4 mL, 29 mmol) and toluene (30 ml) was stirred at 60° C. for 2 days. The reaction was filtered through Celite® and the filter cake was washed with EtOAc. Concentration and vacuum distillation gave the sub-title compound (5.09 g, 92%).

reactant | 5-bromo-1H-pyridin-2-one | 23 mmol, 4.0 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | cyclopentyl bromide | 29 mmol, 7.4 mL | C1(CCCC1)Br | C5H9Br
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-2-cyclopentoxypyridine | 5.09 g, 92% | BrC=1C=CC(=NC1)OC1CCCC1 | C10H12BrNO
